US06852726B2
7-Chloroindole (1.51 g, 10 mmole) was dissolved in 2 ml dichloroethane and cooled under nitrogen to −10° C. in an ice-salt-acetone bath. Trimethylsilylchlorosulfonate (1.89 g, 1.6 ml, 10 mmole) was slowly added with stirring. Upon termination of the addition, the reaction was allowed to warm to room temperature and stirred for 30 min at this temperature. The dark red solution was evaporated to dryness and the solvent was replaced with 50 ml ethyl acetate. Methanol (5 ml) was added and the solvents were removed and the residue thoroughly dried to afford the crude 5-chloro-1H-indole-3-sulfonic acid as a red oil. Step 2 7-Chloro-1H-indole-3-sulfonic acid dimethylamide

reactant | 7-Chloroindole | 10 mmole, 1.51 g | ClC=1C=CC=C2C=CNC12 | C8H6ClN
reactant | Trimethylsilylchlorosulfonate | 10 mmole, 1.6 ml, 1.89 g | C[Si](C)(C)OS(=O)(=O)Cl | C3H9ClO3SSi
reactant | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
product | 5-chloro-1H-indole-3-sulfonic acid | ClC=1C=C2C(=CNC2=CC1)S(=O)(=O)O | C8H6ClNO3S
